US06949579B2
N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
0.22 cm3 of pyridine is added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 25, in 15 cm3 of chloroform, followed by addition of 0.14 cm3 of bromine. The mixture is stirred for 24 hours at 20° C., followed by addition of 50 cm3 of dichloromethane and 50 cm3 of saturated aqueous sodium sulphate solution. After stirring for 10 minutes, the insoluble material is removed by filtration on a sinter funnel and the organic phase is washed with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60/m; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 940 mg of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a white solid melting at 130° C.

reactant | pyridine | 0.22 cm3 | N1=CC=CC=C1 | C5H5N
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
reactant | bromine | 0.14 cm3 | BrBr | Br2
reactant | sodium sulphate | 50 cm3 | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 15 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
